US05843973
Trans-N-t-butoxycarbonyl-4-(1-t-butyldimethylsilyloxyethyl)cyclohexylmethylamine
In 50 ml of ethanol were dissolved 1.7 g of trans-4-azidomethyl-1-(1-t-butyldimethylsilyloxyethyl)cyclohexane, 2.57 ml of di-t-butyl dicarbonate and a catalytic amount of 4-dimethylaminopyridine, and 1.0 g of 10% palladium-carbon was added thereto, and the mixture was stirred under a hydrogen stream at room temperature for 1 hour. After completion of the reaction, the palladium-carbon was separated by filtration and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluting solvent: cyclohexane/ethyl acetate=50/1-10/1) to obtain 1.31 g of the desired compound as a colorless crystalline solid.

reactant | trans-4-azidomethyl-1-(1-t-butyldimethylsilyloxyethyl)cyclohexane | 1.7 g | N(=[N+]=[N-])C[C@@H]1CC[C@H](CC1)C(C)O[Si](C)(C)C(C)(C)C | C15H31N3OSi
reactant | di-t-butyl dicarbonate | 2.57 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | Trans-N-t-butoxycarbonyl-4-(1-t-butyldimethylsilyloxyethyl)cyclohexylmethylamine | 1.31 g | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)C(C)O[Si](C)(C)C(C)(C)C | C20H41NO3Si
